US05132305
Stage B: 3-Methyl-6-(1-Hydroxy-3-Morpholinopropyl)Benzoxazolinone
0.01 mole of 3-methyl-6-(3-morpholinopropionyl)benzoxazolinone, prepared in stage A, is dissolved in 200 cm3 of methanol in a 250-cm3 flask equipped with a magnetic stirrer. 0.02 mole of sodium borohydride is added very slowly and with stirring. Stirring is continued for 4 hours at room temperature. The reaction medium is evaporated on a water bath under vacuum. The residue is taken up with water and the mixture is extracted several times with chloroform. The extracts are filtered and evaporated to dryness on a water bath under vacuum and the product is recrystallized in cyclohexane.

reactant | 3-methyl-6-(3-morpholinopropionyl)benzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C(CCN2CCOCC2)=O)=O | C15H18N2O4
reactant | sodium borohydride | 0.02 mole | [BH4-].[Na+]
solvent | methanol | 200 cm3 | CO | CH4O
product | 3-Methyl-6-(1-Hydroxy-3-Morpholinopropyl)Benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C(CCN2CCOCC2)O)=O | C15H20N2O4
